US06747023B1
5-[2-[1-[(6-Chloronaphthalen-2-yl)sulfonyl]piperazin-3-yl]ethyl]tetrazole
In N,N-dimethylformamide (1.5 ml) was dissolved 1-(tert-butoxycarbonyl)-4-[(6-chloronaphthalen-2-yl) sulfonyl]-2-(2-cyanoethyl)piperazine (529 mg), followed by the addition of ammonium chloride (588 mg) and sodium azide (741 mg). The resulting mixture was stirred under heating at 100° C. The reaction mixture was concentrated under reduced pressure. Ethyl acetate was added to the residue and the resulting mixture was washed with water and saturated aqueous NaCl solution, each once. The organic layer thus extracted was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (methylene chloride:methanol=50:1), whereby a colorless foam was obtained. The resulting substance was dissolved in methylene chloride (5 ml), followed by the addition of trifluoroacetic acid (5 ml). The mixture was stirred at room temperature for 1 minutes. The reaction mixture was concentrated under reduced pressure. The precipitate thus obtained was washed with diethyl ether and collected by filtration, whereby the title compound (141 mg) was obtained as a colorless solid.

reactant | 1-(tert-butoxycarbonyl)-4-[(6-chloronaphthalen-2-yl) sulfonyl]-2-(2-cyanoethyl)piperazine | 529 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)CCC#N | C22H26ClN3O4S
reactant | ammonium chloride | 588 mg | [Cl-].[NH4+]
reactant | sodium azide | 741 mg | [N-]=[N+]=[N-].[Na+]
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-[2-[1-[(6-Chloronaphthalen-2-yl)sulfonyl]piperazin-3-yl]ethyl]tetrazole | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(NCC1)CCC1=NN=NN1 | C17H19ClN6O2S
